US09290451B2
a) 5-Bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester
A solution of 5-bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid (Example 9 d, 0.4 g, 1.5 mmol), iodomethane (CAN 16519-98-5, 0.42 g, 3 mmol), sodium carbonate (0.16 g, 1.5 mmol) in DMF (10 mL) was stirred overnight at room temperature. Water was poured into the reaction solution and the resulting mixture was extracted with ethyl acetate (3×30 mL). The combined organic extracts were washed with water and brine, dried over anhydrous sodium sulfate and evaporated. The residue was purified by column chromatography (silica gel, 20 g, 5% ethyl acetate in petroleum ether) to yield the title compound (0.2 g, 0.7 mmol, 48%) as white solid; MS (EI): m/e=286.0 [M+H]+.

reactant | 5-bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid | 1.5 mmol, 0.4 g | BrC=1C=CC(=NC1OCC1CC1)C(=O)O | C10H10BrNO3
reactant | iodomethane | 3 mmol, 0.42 g | IC | CH3I
reactant | sodium carbonate | 1.5 mmol, 0.16 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester | 0.7 mmol, 0.2 g, 48% | COC(=O)C1=NC(=C(C=C1)Br)OCC1CC1 | C11H12BrNO3
